US04337201
(B) (S)-7-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester
(S)-7-[[Ethoxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester (3.4 g) in dry dichloromethane is treated with bromotrimethylsilane (1.5 ml) under argon at room temperature. After 3 hours the dichloromethane and excess bromotrimethylsilane are removed in vacuo and the residue taken up in water and ethyl acetate and stirred for 5 minutes. The layers are separated and the organic phase is washed with brine and dried (MgSO4). The solvent is stripped yielding 3.3 g of the title compound as a foam.

reactant | (S)-7-[[Ethoxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester | 3.4 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H40NO5PS2
reactant | bromotrimethylsilane | 1.5 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-7-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester | 3.3 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H36NO5PS2
